US08445538B2
Step B. N-(4-{(1S)-1-[(4-chlorophenyl)(6-methoxy-2-naphthyl)methyl]butyl}benzoyl)-β-alanine
To a solution of ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(6-methoxy-2-naphthyl)methyl]butyl}benzoyl)-β-alaninate (4.0 mg, 0.0072 mmol) in ethanol (1 mL) was added LiOH (2.0 N in water, 0.1 mL, 0.2 mmol), then the mixture was stirred for one hour The mixture was diluted with DCM, then acidified with 2.0 N HCl (aq). The layers were separated, then the organic layer was dried over MgSO4, filtered, then concentrated. The residue was purified by silica gel chromatography eluting with 10% MeOH/DCM to obtain the title compound as a white solid. 1H NMR (600 MHz, CD3OD): δ 7.53-7.48 (m, 6H); 7.42 (d, J=8.5 Hz, 1H); 7.33-7.28 (m, 5H); 6.98-6.94 (m, 2H); 5.47 (s, 1H); 4.32 (d, J=11.7 Hz, 1H); 3.79 (s, 3H); 3.51-3.47 (m, 2H); 2.50 (s, 2H); 1.56 (t, J=7.6 Hz, 2H); 1.04 (d, J=9.5 Hz, 2H); 0.73 (t, J=7.3 Hz, 3H); LC3 2.61 min. [M+H]+ 531.

reactant | ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(6-methoxy-2-naphthyl)methyl]butyl}benzoyl)-β-alaninate | 0.0072 mmol, 4.0 mg | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1=CC2=CC=C(C=C2C=C1)OC | C34H36ClNO4
reactant | LiOH | 0.2 mmol, 2.0 N, 0.1 mL | [Li+].[OH-]
reactant | HCl | 2.0 N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(4-{(1S)-1-[(4-chlorophenyl)(6-methoxy-2-naphthyl)methyl]butyl}benzoyl)-β-alanine | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC2=CC=C(C=C2C=C1)OC | C32H32ClNO4
